US05223539
4-bromo-3-methoxybenzoic acid N-isopropyl-N-cyclohexyl amide
A solution of 4-bromo-3-methoxybenzoic acid (2.80 g, 12.1 mmol) in thionyl chloride (30 mL) was refluxed for 3 hr. The reaction was concentrated in vacuo and the residue azeotroped three times with toluene. A solution of the resulting crude solid (3.11 g, 8.75 mmol) in THF (10 mL) was added to a stirred, cold (0° C.) solution of N-isopropylcyclohexyl amine (1.7 g, 11.7 mmol) and triethylamine (1.20 g, 11.7 mmol) in THF (10 mL). The reaction was stirred at room temperature overnight. The reaction was filtered and the filtrate diluted with ethyl acetate and washed three times with 1N HCl, three times with saturated NaHCO3, three times with saturated NaCl solution and dried (Na2SO4). The drying agent was filtered and the filtrate concentrated in vacuo to give a dark brown oil. The oil was purified by chromatography on silica gel using mixtures of ethyl acetate and hexane as eluents. This yielded crystalline amide, m. p. 104-107° C.

reactant | 4-bromo-3-methoxybenzoic acid | 12.1 mmol, 2.80 g | BrC1=C(C=C(C(=O)O)C=C1)OC | C8H7BrO3
reactant | N-isopropylcyclohexyl amine | 11.7 mmol, 1.7 g | C(C)(C)NC1CCCCC1 | C9H19N
reactant | triethylamine | 11.7 mmol, 1.20 g | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-bromo-3-methoxybenzoic acid N-isopropyl-N-cyclohexyl amide | C(C)(C)N(C(C1=CC(=C(C=C1)Br)OC)=O)C1CCCCC1 | C17H24BrNO2
